US06407095B1
4-(5-Phenyl-3-pyridyl)-1,4-diazabicyclo[3.2.2]nonane
0.87 g (3.1 mmol) of 4-(5-bromo-3-pyridyl)-1,4-diazabicyclo[3.2.2]nonane is introduced into a 50 ml three-necked round-bottomed flask, 0.39 g (3.15 mmol) of phenylboronic acid, 0.11 g (0.095 mmol) of tetrakis(triphenylphosphine)palladium, 3.3 ml of aqueous 2 M sodium carbonate solution, 6.5 ml of benzene and 0.15 ml of ethanol are added and the mixture is refluxed for 16 h.

reactant | 4-(5-bromo-3-pyridyl)-1,4-diazabicyclo[3.2.2]nonane | 3.1 mmol, 0.87 g | BrC=1C=C(C=NC1)N1CCN2CCC1CC2 | C12H16BrN3
reactant | phenylboronic acid | 3.15 mmol, 0.39 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzene | 6.5 ml | C1=CC=CC=C1 | C6H6
catalyst | tetrakis(triphenylphosphine)palladium | 0.095 mmol, 0.11 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 0.15 ml | C(C)O | C2H6O
product | 4-(5-Phenyl-3-pyridyl)-1,4-diazabicyclo[3.2.2]nonane | C1(=CC=CC=C1)C=1C=C(C=NC1)N1CCN2CCC1CC2 | C18H21N3
